US07652051B2
Synthesis of 5-[4-(pyridin-3-yloxy)phenyl]-N-[3-(trifluoromethyl)phenyl]-4H-[1,2,4]triazol-3-amine
4-(5-{[3-(trifluromethyl)phenyl]amino}-4H-1,2,4-triazol-3-yl)phenol (100 mg, 0.31 mmol) was dissolved in 2 mL of anhydrous DMF in 2-5 mL microwave vial (Personal Chemistry). Solid Cs2CO3 (203.4 mg, 0.62 mmol) was added, followed by 3-bromopyridine (74.0 mg, 0.468 mmol). The vial was capped and microwaved at 250° C. for 30 min. Then ca. 1 mL of MeOH was added to dissolve the formed suspension. The resulting reddish-brown solution was filtered through 0.22 u syringe filter and purified by reverse phase preparative HPLC using acetontrile/water system with 0.01% of TFA. The fractions, containing the product, were collected and partitioned between EtOAc and saturated aqueous NaHCO3. Ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate and filtered. Solvent was removed in vacuo to give the title compound as a yellow solid (22.4 mg).

reactant | 4-(5-{[3-(trifluromethyl)phenyl]amino}-4H-1,2,4-triazol-3-yl)phenol | 0.31 mmol, 100 mg | FC(C=1C=C(C=CC1)NC=1NC(=NN1)C1=CC=C(C=C1)O)(F)F | C15H11F3N4O
reactant | Cs2CO3 | 0.62 mmol, 203.4 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-bromopyridine | 0.468 mmol, 74.0 mg | BrC=1C=NC=CC1 | C5H4BrN
reactant | MeOH | ca. 1 mL | CO | CH4O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 5-[4-(pyridin-3-yloxy)phenyl]-N-[3-(trifluoromethyl)phenyl]-4H-[1,2,4]triazol-3-amine | 22.4 mg | N1=CC(=CC=C1)OC1=CC=C(C=C1)C=1NC(=NN1)NC1=CC(=CC=C1)C(F)(F)F | C20H14F3N5O
